US20010053788A1
Part A: A stirred mixture of 3-(4-chlorophenyl)-4,5-dihydro-4-phenyl-1H-pyrazole (12.0 gram, 46.8 mmol), [(4-chlorophenyl)sulfonyl]dithioimidocarbonic acid dimethyl ester (CAS: 13068-12-7) (9.20 gram, 31.1 mmol) and triethylamine (15 ml) in acetonitrile (200 ml) was heated at reflux temperature for 20 hours. An additional portion of 3-(4-chlorophenyl)-4,5-dihydro-4-phenyl-1H-pyrazole (12.0 gram, 46.8 mmol) was added and the resulting mixture was heated at reflux temperature for another 16 hours. After concentration in vacuo, dichloromethane was added and the resulting solution was washed twice with water and dried over anhydrous Na2SO4. After filtration and evaporation in vacuo the residue was further purified by flash chromatography (diethyl ether/petroleum ether=1/1 (v/v)) to give 3-(4-chlorophenyl)-N-((4-chlorophenyl)sulfonyl)-4,5-dihydro-4-phenyl-1H-pyrazole-1-carboximidothioic acid methyl ester (12.5 gram, 80% yield based on [(4-chlorophenyl)sulfonyl]dithioimidocarbonic acid dimethyl ester) as an amorphous solid.

reactant | 3-(4-chlorophenyl)-4,5-dihydro-4-phenyl-1H-pyrazole | 46.8 mmol, 12.0 gram | ClC1=CC=C(C=C1)C1=NNCC1C1=CC=CC=C1 | C15H13ClN2
reactant | [(4-chlorophenyl)sulfonyl]dithioimidocarbonic acid dimethyl ester | 31.1 mmol, 9.20 gram | CSC(SC)=NS(=O)(=O)C1=CC=C(C=C1)Cl | C9H10ClNO2S3
reactant | triethylamine | 15 ml | C(C)N(CC)CC | C6H15N
reactant | 3-(4-chlorophenyl)-4,5-dihydro-4-phenyl-1H-pyrazole | 46.8 mmol, 12.0 gram | ClC1=CC=C(C=C1)C1=NNCC1C1=CC=CC=C1 | C15H13ClN2
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 3-(4-chlorophenyl)-N-((4-chlorophenyl)sulfonyl)-4,5-dihydro-4-phenyl-1H-pyrazole-1-carboximidothioic acid methyl ester | 12.5 gram, 80% yield | CSC(=NS(=O)(=O)C1=CC=C(C=C1)Cl)N1N=C(C(C1)C1=CC=CC=C1)C1=CC=C(C=C1)Cl | C23H19Cl2N3O2S2
